US04529736
A 5.0 g amount of 3-(3,4-difluorophenyl)-1-methyl-1H-pyrrole-2,5-dione was dissolved in 25 ml of chloroform with warming. The solution was cooled to room temperature and 2.0 g of cyclohexadiene was added. After prolonged standing another 11/2 ml of diene was added with a small amount of butylated hydroxytoluene. The solution was heated at reflux for 24 hours. The reaction mixture was subjected to high pressure liquid chromatography using a silica gel column and 20% ethyl acetate in hexane as eluent giving 4.9 g of 3a-(3,4-difluorophenyl)-3a,4,7,7a-tetrahydro-2-methyl-4,7-ethano-1H-isoindole-1,3(2H)-dione as a white solid, mp 125°-127° C.

reactant | 3-(3,4-difluorophenyl)-1-methyl-1H-pyrrole-2,5-dione | FC=1C=C(C=CC1F)C=1C(N(C(C1)=O)C)=O | C11H7F2NO2
reactant | cyclohexadiene | 2.0 g | C1=CC=CCC1 | C6H8
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3a-(3,4-difluorophenyl)-3a,4,7,7a-tetrahydro-2-methyl-4,7-ethano-1H-isoindole-1,3(2H)-dione | 4.9 g | FC=1C=C(C=CC1F)C12C(N(C(C2C2C=CC1CC2)=O)C)=O | C17H15F2NO2
